US04561882
A mixture of 2,3,5-trichloropyridine (2.5 g, 13.7 mm), hydroquinone (3.02 g, 27.4 mm), KOH (3.07 g, 54.8 mm) and DMSO (10 ml) is heated to 160° for 3 hours. The mixture is poured into water, acidified with dilute HCl and extracted with ether. The ethereal solution is washed, dried and evaporated to dryness. The crude product is chromotographed on silica gel to give crystalline 4-(3,5-dichloropyridyloxy)phenol.

reactant | 2,3,5-trichloropyridine | 2.5 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | hydroquinone | 3.02 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | KOH | 3.07 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 4-(3,5-dichloropyridyloxy)phenol | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H7Cl2NO2
